US06936612B2
A suspension of 6-bromo-8-cyclopentyl-2-methansulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (10.00 g, 0.027 mol, prepared as in Example 6 of WO 01/707041 which is incorporated here by reference) and 10.37 g (0.0373 mol) of 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester in toluene (100 mL) was heated under nitrogen in an oil bath for 7 hours. Thin layer chromatography (SiO2, 10% MeOH/DCM) indicated that both starting materials remained. The suspension was heated under reflux for a further 18 hours. The resulting suspension was cooled to room temperature and filtered to give 4-[6-(6-bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (5.93 g, 38%). mp>250° C. MS (APCI); M++1: Calc'd. 584.2. Found, 584.2.

reactant | 6-bromo-8-cyclopentyl-2-methansulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | BrC1=C(C2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1)C | C14H16BrN3O2S
reactant | 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.0373 mol, 10.37 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)N | C14H22N4O2
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[6-(6-bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 5.93 g, 38% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2C)Br)=O)C2CCCC2 | C27H34BrN7O3
